US04794183
dl-trans-2-Hexadecyloxymethyl-3-hydroxytetrahydropyran
11 ml of a 1M tetrahydrofuran solution of borane was added dropwise, whilst ice-cooling, to a solution of 5.53 g of 6-hexadecyloxymethyl-3,4-dihydro-2H-pyran (prepared as described in Preparation 1) dissolved in 12 ml of tetrahydrofuran. The reaction mixture was stirred at room temperature for 3 hours, after which 4 ml of a 3N aqueous solution of sodium hydroxide were added to it, and then 4 ml of 30% hydrogen peroxide were added dropwise into it at 30°-40° C. The reaction mixture was then stirred at room temperature for 1 hour, after which it was poured in water. The mixture was then washed with a saturated aqueous solution of sodium chloride, and then the organic layer was separated, dried and condensed by evaporation under reduced pressure. The oily residue was subjected to column chromatography through 100 g of silica gel. The fraction eluted with mixtures of ethyl acetate and hexane ranging from 1:5 to 1:2 by volume gave 5.18 g of the title compound as crystals. Recrystallization from hexane gave needles, melting at 41.5°-43° C.

reactant | borane | B | BH3
reactant | 6-hexadecyloxymethyl-3,4-dihydro-2H-pyran | 5.53 g | C(CCCCCCCCCCCCCCC)OCC1=CCCCO1 | C22H42O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | trans-2-Hexadecyloxymethyl-3-hydroxytetrahydropyran | 5.18 g | C(CCCCCCCCCCCCCCC)OC[C@@H]1OCCC[C@H]1O | C22H44O3
